Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][O:2][C:3]=[C:4]=[O:5].[C:6]([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-1.82421634124
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.913614007860001
[C:1]#[C:2][C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1].[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],6.691431284119999
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:4]([H:5])[H:9].[H:1][C:2]([H:3])[C:6]#[C:7][H:8],5.477242170369999
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:7][H:8]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.86381142295
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],10.6147923695
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[C:1]#[C:2][C:7]([H:8])([H:9])[C:10](=[O:11])[H:12].[C:3]([H:4])([H:5])[H:6],3.5394135586
[H:10].[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.6567544589399998
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3][H:4],6.68239461
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[H:8]>>[H:3].[O:1]=[C:2]=[C:4][O:5][C:6]([H:7])[H:8],1.83839263292
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:7],1.87943208097
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]#[C:4],5.42766897632
[C:1]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-5.2830460277
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.3900974945
[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.79030859734
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.07676769642
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],6.4529432169800005
[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],0.7273692025599999
[H:1].[O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.64390071246
[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-0.923871420003
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.20438257682
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3],1.46576897965
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],4.33799206334
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-1.95418640712
[H:1][O:2][C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],4.31108237381
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-3.91222201084
[C:1]#[C:2].[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.295818227939999
[C:1]#[C:2][O:3][C:4][O:5][H:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.52654178172
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11],4.97272751542
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],2.43892783561
